US04812164
using isopropyl 2-chloro-5-[2-chloro-5-fluoro-6-oxo-4-trifluoromethyl-1(6H)-pyrimidinyl]-4-fluorobenzoate and sodium isopropylate in isopropanol there is obtained isopropyl 2-chloro-5-[5-fluoro-2-isopropoxy-6-oxo-4-trifluoromethyl-1(6H)-pyrimidinyl]-4-fluorobenzoate, 1H-NMR (CDCl3, 400 MHz): 7.83 ppm (d,1H), 7.40 ppm (d,1H), 5.36 ppm (m,1H), 5.27 ppm (m,1H), 1.39 ppm (d,3H), 1.38 ppm (d,3H), 1.29 ppm (d,3H), 1.28 ppm (d,3H).

reactant | isopropyl 2-chloro-5-[2-chloro-5-fluoro-6-oxo-4-trifluoromethyl-1(6H)-pyrimidinyl]-4-fluorobenzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(=NC(=C(C1=O)F)C(F)(F)F)Cl | C15H9Cl2F5N2O3
reactant | sodium | [Na] | Na
solvent | isopropanol | C(C)(C)O | C3H8O
product | isopropyl 2-chloro-5-[5-fluoro-2-isopropoxy-6-oxo-4-trifluoromethyl-1(6H)-pyrimidinyl]-4-fluorobenzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(=NC(=C(C1=O)F)C(F)(F)F)OC(C)C | C18H16ClF5N2O4
